US06423689B1
[S-(R*,R*)]-Azepane-1-carboxylic acid {1-[2-(4-benzyloxy-phenyl)-1-(2-hydroxy-ethylcarbamoyl)-ethylcarbamoyl]-3-methyl-butyl}-amide
A suspension of the resin prepared in Example AS (2-{2[(Azepane-1-carbonyl-carbonyl)-amino]-4-methyl-pentanoylamino }-3-(4-benzyloxy-phenyl) propionic acid kaiser oxime resin ester) (0.5 g, load Å 0.3-0.5 mmol/g resin) in 4 mL of DMF was treated with 2-hydroxyethylamine (2.5 mmol). The resulting suspension was shaken overnight, and the resin was removed by filtration. The resin was washed with additional DMF, and the combined solvent was removed under vacuum. The residue was dissolved in CH2Cl2 or ethyl acetate and washed with aqueous 0.5N HCl solution. The organic phase was dried and concentrated. The residue was purified give the title compound by preparative HPLC using the following conditions:

reactant | 2-{2[(Azepane-1-carbonyl-carbonyl)-amino]-4-methyl-pentanoylamino }-3-(4-benzyloxy-phenyl) propionic acid | N1(CCCCCC1)C(=O)C(=O)NC(C(=O)NC(C(=O)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)CC(C)C | C30H39N3O6
reactant | 2-hydroxyethylamine | 2.5 mmol | OCCN | C2H7NO
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
product | Azepane-1-carboxylic acid {1-[2-(4-benzyloxy-phenyl)-1-(2-hydroxy-ethylcarbamoyl)-ethylcarbamoyl]-3-methyl-butyl}-amide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(NCCO)=O)NC(=O)C(CC(C)C)NC(=O)N1CCCCCC1 | C31H44N4O5
